US09402397B2
A mixture of furan-2-yl(4,5,6,7-tetrachlorobenzo[d][1,3]dioxol-2-yl)methanone (200 mg, 0.568 mmol) and phenylhydrazine (185 mg, 1.704 mmol) in ethanol (3 ml) was heated under reflux for 30 minutes. During the course of the reflux, a yellow solid initially precipitated, but then dissolved upon further heating. The solvent was evaporated to dryness, and the resulting crude material was subjected to flash column chromatography using 7% ethyl acetate/hexane as an eluent to yield (2E)-2,2′-(1-(furan-2-yl)ethane-1,2-diylidene)bis(1-phenylhydrazine) as a yellow solid (150 mg, 87%).

reactant | furan-2-yl(4,5,6,7-tetrachlorobenzo[d][1,3]dioxol-2-yl)methanone | 0.568 mmol, 200 mg | O1C(=CC=C1)C(=O)C1OC2=C(O1)C(=C(C(=C2Cl)Cl)Cl)Cl | C12H4Cl4O4
reactant | phenylhydrazine | 1.704 mmol, 185 mg | C1(=CC=CC=C1)NN | C6H8N2
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | (2E)-2,2′-(1-(furan-2-yl)ethane-1,2-diylidene)bis(1-phenylhydrazine) | 150 mg, 87% | O1C(=CC=C1)\C(\C=NNC1=CC=CC=C1)=N\NC1=CC=CC=C1 | C18H16N4O
